US04116700
Preparation of ethyl-bis-(4,6-dichloro-s-triazin-2-yl)-amine Starting compound A 3
A solution of 0.4 g of sodium hydroxide in 4 ml of water was added dropwise with stirring over a period of 20 minutes to a solution of 1.93 g of 2-ethylamino-4,6-dichlorotriazine and 1.85 g of cyanuric chloride in 50 cc of acetone which had been cooled to 0°-5° C. Stirring was continued for 6 hours after all the sodium hydroxide solution had been added. The resulting solution was then neutralised with sodium carbonate and stirred into ice water. The precipitate was collected, dried and recrystallised from ligroin.

reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | 2-ethylamino-4,6-dichlorotriazine | 1.93 g | C(C)NN1NC(=CC(=N1)Cl)Cl | C5H8Cl2N4
reactant | cyanuric chloride | 1.85 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetone | 50 cc | CC(=O)C | C3H6O
solvent | water | 4 ml | O | H2O
product | ethyl-bis-(4,6-dichloro-s-triazin-2-yl)-amine | C(C)N(C1=NC(=NC(=N1)Cl)Cl)C1=NC(=NC(=N1)Cl)Cl | C8H5Cl4N7
